US06235896B1
Sodium metal (1.8 gm) was reacted under nitrogen atmosphere with ethyl alcohol (40 ml) at room temperature, resulting in a clear solution of sodium ethoxide. A solution of cefuroxime axetil (20.4 gm, S-isomer >90%, R-isomer <10%) in a mixture of tetrahydrofuran (204 ml) and ethyl alcohol (20 ml) was cooled to −60° C. A solution of sodium ethoxide in ethanol was slowly added to this mixture at −60° C. Progress of the reaction was monitored by high pressure liquid chromatography (HPLC). Stirring was continued until cefuroxime axetil almost disappeared (45 minutes). Thereafter, 15% aqueous hydrochloric acid (20 ml) was added and the solvent was evaporated under reduced pressure at low temperature. Water and ethyl acetate (water-immiscible solvent) were added to the reaction mass (basifying agent) and the pH level was adjusted to 6.0 using 5% aqueous potassium bicarbonate solution. The aqueous layer was separated and acidified with 15% aqueous hydrochloric acid to pH 1.0. The resulting solid was filtered, washed with water and dried to yield cefuroxime (15.2 gm).

reactant | cefuroxime axetil | 20.4 gm | CC(OC(=O)C)OC(=O)C1=C(CS[C@H]2N1C(=O)[C@H]2NC(=O)/C(=N\OC)/C3=CC=CO3)COC(=O)N | C20H22N4O10S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | tetrahydrofuran | 204 ml | O1CCCC1 | C4H8O
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | cefuroxime | 15.2 gm | CO/N=C(/C1=CC=CO1)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)COC(=O)N)C(=O)O | C16H16N4O8S
